US07893099B2
Step 4: (1R,2R,4R)-4-(2-Chloro-4-fluoro-benzenesulfonyl)-2-(3,3-difluoro-azetidine-1-carbonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide
The title compound was prepared in analogy to Example 117, step 7, using (1R,2R,4S)-4-(2-Chloro-4-fluoro-benzenesulfonyl)-2-(3,3-difluoro-azetidine-1-carbonyl)-cyclopentanecarboxylic acid and 1-amino-cyclopropyl cyanic hydrochloride. Off-white solid. MS (EI): 490.1 (M+H)+.

reactant | (1R,2R,4S)-4-(2-Chloro-4-fluoro-benzenesulfonyl)-2-(3,3-difluoro-azetidine-1-carbonyl)-cyclopentanecarboxylic acid | ClC1=C(C=CC(=C1)F)S(=O)(=O)[C@H]1C[C@H]([C@@H](C1)C(=O)O)C(=O)N1CC(C1)(F)F | C16H15ClF3NO5S
reactant | 1-amino-cyclopropyl cyanic hydrochloride | C1CC1(C#N)N.Cl
product | (1R,2R,4R)-4-(2-Chloro-4-fluoro-benzenesulfonyl)-2-(3,3-difluoro-azetidine-1-carbonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](C[C@@H](C1)S(=O)(=O)C1=C(C=C(C=C1)F)Cl)C(=O)N1CC(C1)(F)F | C20H19ClF3N3O4S
